US07223766B2
2-(5-Chloro-2-fluoro-phenyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one
1-(5-Chloro-2-fluoro-benzoylamino)-1H-pyrrole-2-carboxylic acid amide (200 mg, 0.71 mmole) was dissolved in 5 ml 28% ammonium hydroxide in a sealed tube and heated to 80° C. overnight. Purged solution with nitrogen to remove excess ammonia and acidified with 1M hydrochloric acid to pH 2. Product was isolated by filtration, washed with water and vacuum dried to give 90 mg product (yield: 48%)

reactant | 1-(5-Chloro-2-fluoro-benzoylamino)-1H-pyrrole-2-carboxylic acid amide | 0.71 mmole, 200 mg | ClC=1C=CC(=C(C(=O)NN2C(=CC=C2)C(=O)N)C1)F | C12H9ClFN3O2
solvent | ammonium hydroxide | 5 ml | [OH-].[NH4+]
product | 2-(5-Chloro-2-fluoro-phenyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 90 mg, yield: 48% | ClC=1C=CC(=C(C1)C1=NN2C(C(N1)=O)=CC=C2)F | C12H7ClFN3O
